US07560551B2
A dry 50 mL RBF set up with stirring bar and reflux condenser was charged with 4-(4-methylthiazol-2-yl)phthalazin-1 (2H)-one (1.6 g, 6.6 mmol) and phosphorus oxychloride (7.4 ml, 78.9 mmol). The mixture was stirred under reflux for 18 hrs, then poured onto ice while stirring vigorously. To the iced mixture was added 6N NaOH until pH=9. Stirring was continued vigorously until solids formed. The solids were filtered, washed with water and dried in oven to afford 1-chloro-4-(4-methylthiazol-2-yl)phthalazine. MS m/z=262 [M+H]+. Calc'd for C12H8ClN3S: 261.7.

reactant | 4-(4-methylthiazol-2-yl)phthalazin-1 (2H)-one | 6.6 mmol, 1.6 g | CC=1N=C(SC1)C1=NNC(C2=CC=CC=C12)=O | C12H9N3OS
reactant | phosphorus oxychloride | 78.9 mmol, 7.4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | 6N | [OH-].[Na+]
product | 1-chloro-4-(4-methylthiazol-2-yl)phthalazine | ClC1=NN=C(C2=CC=CC=C12)C=1SC=C(N1)C | C12H8ClN3S
